US08426604B2
5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-thioxo-thiazolidin-4-one was prepared from 1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazole-5-carbaldehyde was prepared from 1H-indazole-5-carbaldehyde and 2-thioxo-thiazolidin-4-one following General Procedure B.

reactant | 1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazole-5-carbaldehyde | ClC1=CC(=C(CN2N=CC3=CC(=CC=C23)C=O)C=C1)C(F)(F)F | C16H10ClF3N2O
reactant | 1H-indazole-5-carbaldehyde | N1N=CC2=CC(=CC=C12)C=O | C8H6N2O
reactant | 2-thioxo-thiazolidin-4-one | S=C1SCC(N1)=O | C3H3NOS2
product | 5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-thioxo-thiazolidin-4-one | ClC1=CC(=C(CN2N=CC3=CC(=CC=C23)C=C2C(NC(S2)=S)=O)C=C1)C(F)(F)F | C19H11ClF3N3OS2
